US07893257B2
1-(4-Cyclopropyl-piperazin-1-yl)-2,2,2-trifluoro-ethanone
The product prepared as in Example 8 above, methanesulfonic acid 2-[(2-methanesulfonyloxy-ethyl)-(2,2,2-trifluoro-acetyl)-amino]-ethyl ester (3.6 g) was dissolved in THF (18 mL). Cyclopropylamine (1.14 g, 20 mmol) was then added neat to the reaction mixture. The reaction mixture was then heated at 48° C. for 72 hours. The reaction mixture was then concentrated to a thick oil and the oil was chromatographed using 25-35% ethylacetate-hexanes mixture to yield the title compound as the late eluting fraction and isolated as thick brown oil.

reactant | methanesulfonic acid 2-[(2-methanesulfonyloxy-ethyl)-(2,2,2-trifluoro-acetyl)-amino]-ethyl ester | 3.6 g | CS(=O)(=O)OCCN(CCOS(=O)(=O)C)C(C(F)(F)F)=O | C8H14F3NO7S2
reactant | Cyclopropylamine | 20 mmol, 1.14 g | C1(CC1)N | C3H7N
solvent | THF | 18 mL | C1CCOC1 | C4H8O
product | 1-(4-Cyclopropyl-piperazin-1-yl)-2,2,2-trifluoro-ethanone | C1(CC1)N1CCN(CC1)C(C(F)(F)F)=O | C9H13F3N2O
